US08912224B2
33 mg of 1,3,5-trimethyl-1H-pyrazole-4-sulfonic acid chloride (0.16 mmol, 1.2 eq) were weighted into a reaction tube and dissolved in dry tetrahydrofuran (1 ml). 44 mg of [2-(2-phenyl-chroman-6-yloxy)-thiazol-5-ylmethyl]amine (0.13 mmol) in dry tetrahydrofuran (3 ml) and 30 mg triethylamine (0.3 mmol, 2.3 eq) were added, the tube was flushed with argon, closed with a screw cap, and shaken over night at 40° C. 0.008 ml of tris-(2-aminoethyl)amine in 0.5 ml tetrahydrofuran were added, the mixture was shaken for 2 h at room temperature and then evaporated. The residue was dissolved in 2 ml of a mixture of dimethylformamide/trifluoroacetic acid (19:1), filtered, and submitted to preparative reversed phase HPLC purification (water/acetonitrile gradient (+0.1% trifluoroacetic acid)). 1,3,5-Trimethyl-1H-pyrazole-4-sulfonic acid [2-(2-phenyl-chroman-6-yloxy)-thiazol-5-ylmethyl]-amide was obtained as a white solid (42 mg, 63%).

reactant | 1,3,5-trimethyl-1H-pyrazole-4-sulfonic acid chloride | 0.16 mmol, 33 mg, 1.2 eq | CN1N=C(C(=C1C)S(=O)(=O)Cl)C | C6H9ClN2O2S
reactant | [2-(2-phenyl-chroman-6-yloxy)-thiazol-5-ylmethyl]amine | 0.13 mmol, 44 mg | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)OC=1SC(=CN1)CN | C19H18N2O2S
reactant | triethylamine | 0.3 mmol, 30 mg, 2.3 eq | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 1,3,5-Trimethyl-1H-pyrazole-4-sulfonic acid [2-(2-phenyl-chroman-6-yloxy)-thiazol-5-ylmethyl]-amide | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)OC=1SC(=CN1)CNS(=O)(=O)C=1C(=NN(C1C)C)C | C25H26N4O4S2
